US04141995
Aluminium chloride (0.6 g, 0.004 mole) was stirred in dichloromethane (2 ml) and treated with 4-trifluoromethylbenzoyl chloride (1 g, 0.0048 mole) (ice-bath cooling) and then with 4-ethylanisole (0.6 g, 0.0044 mole) in dichloromethane (1 ml). The mixture was stirred at room temperature overnight and then poured into ice and concentrated hydrochloric acid and extracted with chloroform. The chloroform solution was washed with 10% NaHCO3 solution (100 ml), dried (MgSO4), filtered and evaporated to leave 5-ethyl-2-methoxy-4'-trifluoromethylbenzophenone (1.2 g) as a yellow oil. The latter was heated in 55% aqueous hydrogen bromide (27.5 ml) at 110°-120° C. for 5 hours. The mixture was evaporated to dryness to leave the required product.

reactant | Aluminium chloride | 0.004 mole, 0.6 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 4-trifluoromethylbenzoyl chloride | 0.0048 mole, 1 g | FC(C1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O
reactant | 4-ethylanisole | 0.0044 mole, 0.6 g | C(C)C1=CC=C(C=C1)OC | C9H12O
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | 5-ethyl-2-methoxy-4'-trifluoromethylbenzophenone | 1.2 g | C(C)C=1C=CC(=C(C(=O)C2=CC=C(C=C2)C(F)(F)F)C1)OC | C17H15F3O2
